US07476764B2
Step 1: Preparation of 3-bromo-5-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzoic acid methyl ester.
To a sealable tube equipped with a stir bar were added 3-bromo-5-iodobenzoate (2.0 g, 5.88 mmol), cesium carbonate (2.85 g, 8.82 mmol), tris(dibenzylideneacetone)dipalladium (0) (27.1 mg, 0.029 mmol) and xant phos (51 mg, 0.088 mmol) in toluene (45 mL) followed by [1,2]thiazinane 1,1-dioxide (902 mg, 6.47 mmol). The resulting mixture was stirred at 10° C. for 16 h, cooled to room temperature and diluted with ethyl acetate. The organic phase was washed with saturated sodium bicarbonate solution, dried over magnesium sulfate, filtered and concentrated under vacuum. The crude mixture was purified by reverse phase prep HPLC to give the title compound (1.7 g, 84% yield): 1H NMR (CD3OD, 500 MHz) δ ppm 1.93-1.97 (2H, m), 2.30-2.35 (2H, m), 3.30 (2H, t, J=5 Hz), 3.78 (2H, t, J=5 Hz), 3.94 (3H, s), 7.76 (1H, m), 7.93 (1H, m), 8.06 (1H, m). HPLC retention time: 1.772 min (method A). MS (ESI) (M+H)+ 348.06.

reactant | 3-bromo-5-iodobenzoate | 5.88 mmol, 2.0 g | BrC=1C=C(C(=O)[O-])C=C(C1)I
reactant | cesium carbonate | 8.82 mmol, 2.85 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | [1,2]thiazinane 1,1-dioxide | 6.47 mmol, 902 mg | S1(NCCCC1)(=O)=O | C4H9NO2S
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.029 mmol, 27.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-bromo-5-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzoic acid methyl ester | 1.7 g, 84% yield | COC(C1=CC(=CC(=C1)N1S(CCCC1)(=O)=O)Br)=O | C12H14BrNO4S
